US07683079B2
Step E]: (3R,4R) and (3S,4S)-4-Amino-1-[2-(3,4-dimethoxy-phenyl)-ethyl]-piperidine-3-carboxylic acid ethyl ester
A solution of (3R,4R) and (3S,4S)-4-tert-butoxycarbonylamino-1-[2-(3,4-dimethoxy-phenyl)-ethyl]-piperidine-3-carboxylic acid ethyl ester (24 mg) in 1 ml TFA was stirred 1 h at 0° C. The mixture was poured onto NaOH 1M/ice and extracted with AcOEt. The combined organic layers were washed with brine and dried over sodium sulfate. Removal of the solvent under reduced pressure gave an oil which was purified by column chromatography (Isolute SPE Flash NH2 10 g, AcOEt/heptane, 1/2) to give 9 mg (50%) of the title compound.

reactant | (3S,4S)-4-tert-butoxycarbonylamino-1-[2-(3,4-dimethoxy-phenyl)-ethyl]-piperidine-3-carboxylic acid ethyl ester | 24 mg | C(C)OC(=O)[C@H]1CN(CC[C@@H]1NC(=O)OC(C)(C)C)CCC1=CC(=C(C=C1)OC)OC | C23H36N2O6
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (3S,4S)-4-Amino-1-[2-(3,4-dimethoxy-phenyl)-ethyl]-piperidine-3-carboxylic acid ethyl ester | 9 mg, 50% | C(C)OC(=O)[C@H]1CN(CC[C@@H]1N)CCC1=CC(=C(C=C1)OC)OC | C18H28N2O4
